US04140681
A suspension of 4.36 g of N2 -(2-phenoxathiinylsulfonyl)-L-arginine in 20 ml of thionyl chloride was stirred for 2 hours at room temperature. Addition of cold dry diethyl ether resulted in a precipitate which was collected by filtration and washed several times with dry diethyl ether to give N2 -(2-phenoxathiinylsulfonyl)-L-arginyl chloride.

reactant | N2 (2-phenoxathiinylsulfonyl)-L-arginine | 4.36 g | N#N.C1=C(C=CC=2OC3=CC=CC=C3SC12)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | N2 (2-phenoxathiinylsulfonyl)-L-arginyl chloride | N#N.C1=C(C=CC=2OC3=CC=CC=C3SC12)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl | InChI=1S/C18H19ClN4O4S2.N2/c19-17(24)12(4-3-9-22-18(20)21)23-29(25,26)11-7-8-14-16(10-11)28-15-6-2-1-5-13(15)27-14;1-2/h1-2,5-8,10,12,23H,3-4,9H2,(H4,20,21,22);/t12-;/m0./s1
